US08530648B2
c) 9-(quinolin-3-yl)-2-((1-tosyl-1H-indol-3-yl)methyl)-2,9-diazaspiro[5.5]undecan-1-one
The mixture of 2-((1-tosyl-1H-indol-3-yl)methyl)-2,9-diazaspiro[5.5]undecan-1-one (100 mg, 0.15 mmol, contains 1.7 moleq TFA), 3-bromoquinoline (49 mg, 0.23 mmol), Pd2dba3 (7 mg, 7.7 μmol), sodium t-butanolate (45 mg, 0.46 mmol), 2-(2-dicyclohexylphosphanylphenyl)-N,N-dimethylaniline (DavePhos, 6.1 mg, 0.015 mmol) and dry dioxane (2 mL) was placed in a microwave tube and flushed with argon. The tube was sealed and the suspension was heated at 100° C. for 1 h under microwave conditions. The reaction mixture was diluted with ethyl acetate and washed with water and brine and dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting brown oil was purified by flash chromatography (EtOAc/heptane 3:1) to yield the title compound (63 mg, 68%). [LCMS RtA=1.31 min, [M+H]+=579.2].

reactant | 2-((1-tosyl-1H-indol-3-yl)methyl)-2,9-diazaspiro[5.5]undecan-1-one | 0.15 mmol, 100 mg | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=C(C2=CC=CC=C12)CN1C(C2(CCC1)CCNCC2)=O | C25H29N3O3S
reactant | 3-bromoquinoline | 0.23 mmol, 49 mg | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | sodium t-butanolate | 0.46 mmol, 45 mg | C(C)(C)(C)[O-].[Na+]
reactant | 2-(2-dicyclohexylphosphanylphenyl)-N,N-dimethylaniline | 0.015 mmol, 6.1 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(N(C)C)C=CC=C1)C1CCCCC1 | C26H36NP
catalyst | Pd2dba3 | 7.7 μmol, 7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 9-(quinolin-3-yl)-2-((1-tosyl-1H-indol-3-yl)methyl)-2,9-diazaspiro[5.5]undecan-1-one | 63 mg, 68% | N1=CC(=CC2=CC=CC=C12)N1CCC2(CCCN(C2=O)CC2=CN(C3=CC=CC=C23)S(=O)(=O)C2=CC=C(C)C=C2)CC1 | C34H34N4O3S
